US07674397B2
Step 14.1: 3-[6-(4-Bromophenyl)hexyloxymethyl]-3-ethyloxetane
To a mixture of zinc powder (1.80 g, 27.5 mmol) in anhydrous DMA (20 ml) is added iodine (0.5 g, 1.97 mmol). This mixture is stirred until the red color of iodine disappeared (ca. 2 min), followed by the addition of 3-(6-bromohexyloxymethyl)-3-ethyloxetane (5.0 g, 17.9 mmol) and the resultant mixture is stirred at 85° C. for 4.5 h, then cooled to room temperature. In another flask charged with anhydrous THF (30 ml) is added 1-bromo-4-iodobenzene (7.0 g, 24.74 mmol) and Pd(dppf)Cl2 (0.5 g, 0.61 mmol). This mixture is stirred for 10 min, then the organic zinc reagent above is introduced. The reaction mixture is stirred overnight (˜16 h) at room temperature. Sat. aq. NH4Cl solution is added and the mixture is extracted with ethyl acetate (3×70 ml). The extracts are dried (Na2SO4) and evaporated under reduced pressure. The residue is purified by column chromatography on silica, eluting with petrol/ethyl acetate (10:0 to 4:1), to give a brown oil (2.6 g, 41%). 1H NMR (300 MHz, CDCl3): δ(ppm) 7.35 (d, J=8.4 Hz, 2H, Ar—H), 7.01 (d, J=8.4 Hz, 2H, Ar—H), 4.43 (d, J=5.7 Hz, 2H, OCH2), 4.34 (d, J=5.7 Hz, 2H, OCH2), 3.48 (s, 2H, OCH2), 3.41 (t, J=6.4 Hz, 2H, OCH2), 2.53 (t, J=7.9 Hz, 2H, ArCH2), 1.72 (q, J=7.6 Hz, 2H, CH2), 1.56 (m, 4H, CH2), 1.34 (m, 4H, CH2); 0.86 (t, J=7.6 Hz 3H, CH3); 13C NMR (75 MHz, CDCl3): δ (ppm) 141.6 (quat.), 131.2 (CH), 130.2 (CH), 119.3 (quat.), 78.4 (OCH2), 73.4 (OCH2), 71.4 (OCH2), 43.4 (quat.), 35.3 (CH2), 31.3 (CH2), 29.5 (CH2), 29.0 (CH2), 26.8 (CH2), 26.0 (CH2), 8.2 (CH3).

reactant | iodine | 1.97 mmol, 0.5 g | II | I2
reactant | 3-(6-bromohexyloxymethyl)-3-ethyloxetane | 17.9 mmol, 5.0 g | BrCCCCCCOCC1(COC1)CC | C12H23BrO2
reactant | 1-bromo-4-iodobenzene | 24.74 mmol, 7.0 g | BrC1=CC=C(C=C1)I | C6H4BrI
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DMA | 20 ml | CC(=O)N(C)C | C4H9NO
catalyst | zinc | 27.5 mmol, 1.80 g | [Zn] | Zn
catalyst | Pd(dppf)Cl2 | 0.61 mmol, 0.5 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 3-[6-(4-Bromophenyl)hexyloxymethyl]-3-ethyloxetane | 2.6 g, 41% | BrC1=CC=C(C=C1)CCCCCCOCC1(COC1)CC | C18H27BrO2
